US07192978B2
Preparation of 3-(2-Hydroxy-2,2-dithien-2-ylacetoxy)-1-methyl-1-(3-phenoxypropyl)pyrrolidinium bromide.
0.66 g (0.002 mol) of 2-hydroxy-2,2-dithien-2-ylacetic acid 1-methylpyrrolidin-3-yl ester (Intermediate I-7) were dissolved in 9 ml of CHCl3 and 6 ml of acetonitrile. 1.6 ml of (3-bromopropoxy)benzene (2.15 g, 0.01 mol) were added and the mixture was stirred during 72 hours at room temperature under N2 atmosphere. Solvents were evaporated. Ether was added to the residue and the mixture stirred to obtain a solid. The solid was treated with ether several times, filtered and washed with ether. The yield was 0.75 g (69.4%) of the title compound as a mixture of four stereoisomers.

reactant | 2-hydroxy-2,2-dithien-2-ylacetic acid 1-methylpyrrolidin-3-yl ester | 0.002 mol, 0.66 g | CN1CC(CC1)OC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C15H17NO3S2
reactant | (3-bromopropoxy)benzene | 0.01 mol, 1.6 ml, 2.15 g | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | ether | CCOCC | C4H10O
solvent | CHCl3 | 9 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 3-(2-Hydroxy-2,2-dithien-2-ylacetoxy)-1-methyl-1-(3-phenoxypropyl)pyrrolidinium bromide | [Br-].OC(C(=O)OC1C[N+](CC1)(CCCOC1=CC=CC=C1)C)(C=1SC=CC1)C=1SC=CC1 | InChI=1S/C24H28NO4S2.BrH/c1-25(13-7-15-28-19-8-3-2-4-9-19)14-12-20(18-25)29-23(26)24(27,21-10-5-16-30-21)22-11-6-17-31-22;/h2-6,8-11,16-17,20,27H,7,12-15,18H2,1H3;1H/q+1;/p-1
